US07872014B2
To 3-(1,1-dimethylethyl)-6-fluoro-1-methyl-9-(methyloxy)-5-{3-methyl-4-[(phenylmethyl)oxy]phenyl}-8-[(piperidin-4-ylmethyl)oxy]-3H-pyrazolo[3,4-c]iso-quinoline (159 mg, 0.26 mmol) was added dichloroethane (2 mL), 37% aqueous formaldehyde (40 μL, 0.52 mmol), and sodium triacetoxyborohydride (110 mg, 0.52 mmol). The mixture was stirred for 1 h at rt. Water and CH2Cl2 were added, and the layers were partitioned. The aqueous phase was extracted with CH2Cl2. The organic extracts were combined, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (90% CH2Cl2, 10% methanol) to provide 83.1 mg of To 3-(1,1-dimethylethyl)-6-fluoro-1-methyl-9-(methyloxy)-5-{3-methyl-4-[(phenylmethyl)oxy]phenyl}-8-{[(1-methylpiperidin-4-yl)methyl]oxy}-3H-pyrazolo[3,4-c]isoquinoline (0.136 mmol, 52% yield) as a yellow film. 1H NMR (400 MHz, CDCl3): δ 7.49-7.32 (m, 7H), 6.96 (d, 1H), 6.81 (d, 1H), 5.15 (s, 2H), 3.98 (d, 2H), 3.89 (s, 3H), 3.10 (d, 2H), 2.87 (s, 3H), 2.40 (s, 3H), 2.36 (s, 3H), 2.17 (br t, 2H), 2.03-1.96 (m, 3H), 1.84 (s, 9H), 1.62 (m, 2H); MS (EI) for C37H43FN4O3: 611 (MH+).

reactant | 3-(1,1-dimethylethyl)-6-fluoro-1-methyl-9-(methyloxy)-5-{3-methyl-4-[(phenylmethyl)oxy]phenyl}-8-[(piperidin-4-ylmethyl)oxy]-3H-pyrazolo[3,4-c]iso-quinoline | 0.26 mmol, 159 mg | CC(C)(C)N1N=C(C2=C1N=C(C=1C(=CC(=C(C21)OC)OCC2CCNCC2)F)C2=CC(=C(C=C2)OCC2=CC=CC=C2)C)C | C36H41FN4O3
reactant | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
reactant | formaldehyde | 0.52 mmol, 40 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.52 mmol, 110 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 3-(1,1-dimethylethyl)-6-fluoro-1-methyl-9-(methyloxy)-5-{3-methyl-4-[(phenylmethyl)oxy]phenyl}-8-{[(1-methylpiperidin-4-yl)methyl]oxy}-3H-pyrazolo[3,4-c]isoquinoline | 0.136 mmol, 52% yield | CC(C)(C)N1N=C(C2=C1N=C(C=1C(=CC(=C(C21)OC)OCC2CCN(CC2)C)F)C2=CC(=C(C=C2)OCC2=CC=CC=C2)C)C | C37H43FN4O3
